US06573293B2
5-(5-Bromo-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-3-methyl-1H-pyrrole-2-carboxylic Acid (3-diethylamino-propyl)amide
5-Bromo-1,3-dihydroindol-2-one (106 mg, 0.5 mmol) was condensed with 5-formyl-3-methyl-1H-pyrrole-2-carboxylic acid (3-diethylaminopropyl)amide to give 35 mg (15%) of the title compound.

reactant | 5-Bromo-1,3-dihydroindol-2-one | 0.5 mmol, 106 mg | BrC=1C=C2CC(NC2=CC1)=O | C8H6BrNO
reactant | 5-formyl-3-methyl-1H-pyrrole-2-carboxylic acid (3-diethylaminopropyl)amide | C(C)N(CCCNC(=O)C=1NC(=CC1C)C=O)CC | C14H23N3O2
product | 5-(5-Bromo-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-3-methyl-1H-pyrrole-2-carboxylic Acid (3-diethylamino-propyl)amide | 35 mg, 15% | C(C)N(CCCNC(=O)C=1NC(=CC1C)C=C1C(NC2=CC=C(C=C12)Br)=O)CC | C22H27BrN4O2
